US08871796B2
3-[5-(2-amino-4-fluorophenoxy)-1-ethyl-1H-pyrazol-3-yl]benzonitrile (0.25 g, 0.78 mmol, 1 equiv) was dissolved in a mixture of 1:1 36% aq HCl: 50% aq hypophosphoric (12.7 mL) acid and then cooled to −5° C. Sodium nitrite (3 M in water, 0.27 g, 3.88 mmol, 5 equiv) was added dropwise. The resulting mixture was warmed to 22° C. and stirred for 1 hr. The mixture was then diluted with water and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride then dried over anhydrous magnesium sulfate. The drying agent was filtered and the filtrate was concentrated in vacuo. The residue (0.24 g) was purified by flash-column chromatography on silica gel (0-45% EtOAc:Hex) to give 3-[1-ethyl-5-(4-fluorophenoxy)-1H-pyrazol-3-yl]benzonitrile. Calcd (M+1)+: 308.1. Found 308.0.

reactant | 3-[5-(2-amino-4-fluorophenoxy)-1-ethyl-1H-pyrazol-3-yl]benzonitrile | 0.78 mmol, 0.25 g, 1 equiv | NC1=C(OC2=CC(=NN2CC)C=2C=C(C#N)C=CC2)C=CC(=C1)F | C18H15FN4O
reactant | Sodium nitrite | 3.88 mmol, 3 M, 0.27 g, 5 equiv | N(=O)[O-].[Na+]
solvent | HCl | Cl | ClH
solvent | water | O | H2O
product | 3-[1-ethyl-5-(4-fluorophenoxy)-1H-pyrazol-3-yl]benzonitrile | C(C)N1N=C(C=C1OC1=CC=C(C=C1)F)C=1C=C(C#N)C=CC1 | C18H14FN3O
